US04880804
Part C: Preparation of 3-[1-(4-Nitrobenzyl)benzimidazol-2-yl]-2-(carboethoxy)propanoic acid, ethyl ester
The sodium salt of diethylmalonate was generated from 0.35 g of NaH (50% oil dispersion) and 1.1 mL of diethyl malonate in 15 mL of dried DMF with ice cooling. To the above mixture was added 2 g of 1-(4-nitrobenzyl)-2-chloromethylbenzimidazole and the mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate, washed with water, dried and concentrated in vacuo. The crude produce was purified by flash column chromatography (hexane/ethyl acetate, 1:1) to give a yellowish thick oil which was crystallized from absolute ethanol to give a white solid; m.p. 135°.

reactant | sodium | [Na] | Na
reactant | diethylmalonate | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | NaH | 0.35 g | [H-].[Na+]
reactant | diethyl malonate | 1.1 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-(4-nitrobenzyl)-2-chloromethylbenzimidazole | 2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC3=C2C=CC=C3)CCl)C=C1 | C15H12ClN3O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[1-(4-Nitrobenzyl)benzimidazol-2-yl]-2-(carboethoxy)propanoic acid, ethyl ester | [N+](=O)([O-])C1=CC=C(CN2C(=NC3=C2C=CC=C3)CC(C(=O)OCC)C(=O)OCC)C=C1 | C22H23N3O6
